M1 cont2 gate0 cont1 cont0 myNMOS w=1u l=0.25u As=0.75p Ad=0.8125p Ps=3.5u Pd=3.5625u  geo=1
M2 cont4 gate1 cont3 cont0 myNMOS w=1u l=0.25u As=0.75p Ad=0.8125p Ps=3.5u Pd=3.5625u  geo=1
M3 cont2 gate2 cont5 cont0 myNMOS w=0.6u l=0.25u As=0.45p Ad=0.4875p Ps=2.7u Pd=2.1375u  geo=1
M4 cont4 gate3 cont6 cont0 myNMOS w=0.6u l=0.25u As=0.45p Ad=0.4875p Ps=2.7u Pd=2.1375u  geo=1
M5 cont9 gate4 cont8 cont7 myPMOS w=0.6u l=0.25u As=0.45p Ad=0.45p Ps=2.7u Pd=2.7u  geo=0
M6 cont11 gate5 cont10 cont7 myPMOS w=0.6u l=0.25u As=0.45p Ad=0.45p Ps=2.7u Pd=2.7u  geo=0
R1   aux1   aux2   1.4879085
R2   aux1   cont8  0.12944804
R3   aux1   cont2  0.28059727
R4   gate5  aux2   0.0007478455
R5   aux2   gate1  1.2472704
R6   aux3   wlm    0.28977922
R7   aux3   gate3  0.223771
R8   aux3   gate2  0.13664286
R9   aux4   gate4  0.86098056
R10  aux4   gate0  0.35392439
R11  aux4   aux5   0.94282386
R12  aux5   cont11 0.23700188
R13  aux5   cont4  0.16057632
R14  cont5  bit    0.85547894
R15  aux6   cont10 0.7598658
R16  aux6   cont7  0.66440481
R17  aux6   aux7   0.00088629717
R18  aux7   vdd    0.066339594
R19  aux7   cont9  0.60653454
R20  aux8   aux9   0.029172409
R21  aux8   cont3  0.36705157
R22  aux8   cont1  0.2852605
R23  aux9   gnd    0.044851341
R24  aux9   cont0  0.63524533
R25  cont6  bitbar 0.8814695
C1   cont1  cont2  1.3722073e-18
C2   cont1  gate0  1.3847909e-18
C3   cont1  cont4  1.3847909e-18
C4   cont1  gate1  1.3722073e-18
C5   cont1  cont5  1.9519676e-17
C6   cont1  gate2  2.4610751e-18
C7   cont1  bit    1.9519676e-17
C8   cont1  wlm    2.4610751e-18
C9   cont1  cont6  1.9094507e-17
C10  cont1  gate3  2.4610751e-18
C11  cont1  bitbar 1.9094507e-17
C12  cont1  cont8  1.3722073e-18
C13  cont1  cont9  3.1915581e-18
C14  cont1  gate4  1.3847909e-18
C15  cont1  cont7  3.1915581e-18
C16  cont1  vdd    3.1915581e-18
C17  cont1  cont10 3.1915581e-18
C18  cont1  cont11 1.3847909e-18
C19  cont1  gate5  1.3722073e-18
C20  cont1  substrate 6.1995534e-17
C21  cont1  aux1   4.116622e-18
C22  cont1  aux2   4.116622e-18
C23  cont1  aux3   7.3832254e-18
C24  cont1  aux4   4.1543726e-18
C25  cont1  aux5   4.1543726e-18
C26  cont1  aux6   9.5746744e-18
C27  cont1  aux7   9.5746744e-18
C28  cont2  gate0  4.7975111e-18
C29  cont0  cont2  1.3722073e-18
C30  gnd    cont2  1.3722073e-18
C31  cont3  cont2  1.3722073e-18
C32  cont2  cont4  4.7975111e-18
C33  cont2  cont5  5.8032019e-18
C34  cont2  gate2  8.943729e-19
C35  cont2  bit    5.8032019e-18
C36  cont2  wlm    8.943729e-19
C37  cont2  cont6  2.7488313e-18
C38  cont2  gate3  8.943729e-19
C39  cont2  bitbar 2.7488313e-18
C40  cont2  cont9  1.7964086e-18
C41  cont2  gate4  4.7975111e-18
C42  cont2  cont7  1.7964086e-18
C43  cont2  vdd    1.7964086e-18
C44  cont2  cont10 1.7964086e-18
C45  cont2  cont11 4.7975111e-18
C46  cont2  substrate 9.2067218e-17
C47  cont2  aux3   2.6831187e-18
C48  cont2  aux4   1.4392533e-17
C49  cont2  aux5   1.4392533e-17
C50  cont2  aux6   5.3892258e-18
C51  cont2  aux7   5.3892258e-18
C52  aux8   cont2  4.116622e-18
C53  aux9   cont2  4.116622e-18
C54  cont0  gate0  1.3847909e-18
C55  gnd    gate0  1.3847909e-18
C56  cont3  gate0  1.3847909e-18
C57  gate1  gate0  4.7975111e-18
C58  gate0  cont5  1.4425605e-18
C59  gate0  gate2  8.9967143e-19
C60  gate0  bit    1.4425605e-18
C61  gate0  wlm    8.9967143e-19
C62  gate0  cont6  4.4950388e-18
C63  gate0  gate3  8.9967143e-19
C64  gate0  bitbar 4.4950388e-18
C65  cont8  gate0  4.7975111e-18
C66  gate0  cont9  1.0490203e-18
C67  gate0  cont7  1.0490203e-18
C68  gate0  vdd    1.0490203e-18
C69  gate0  cont10 1.0490203e-18
C70  gate5  gate0  4.7975111e-18
C71  gate0  substrate 8.4531935e-17
C72  aux1   gate0  1.4392533e-17
C73  aux2   gate0  1.4392533e-17
C74  gate0  aux3   2.6990143e-18
C75  gate0  aux6   3.147061e-18
C76  gate0  aux7   3.147061e-18
C77  aux8   gate0  4.1543726e-18
C78  aux9   gate0  4.1543726e-18
C79  cont0  cont4  1.3847909e-18
C80  cont0  gate1  1.3722073e-18
C81  cont0  cont5  1.9519676e-17
C82  cont0  gate2  2.4610751e-18
C83  cont0  bit    1.9519676e-17
C84  cont0  wlm    2.4610751e-18
C85  cont0  cont6  1.9094507e-17
C86  cont0  gate3  2.4610751e-18
C87  cont0  bitbar 1.9094507e-17
C88  cont0  cont8  1.3722073e-18
C89  cont0  cont9  3.1915581e-18
C90  cont0  gate4  1.3847909e-18
C91  cont0  cont7  3.1915581e-18
C92  cont0  vdd    3.1915581e-18
C93  cont0  cont10 3.1915581e-18
C94  cont0  cont11 1.3847909e-18
C95  cont0  gate5  1.3722073e-18
C96  cont0  substrate 6.1995534e-17
C97  cont0  aux1   4.116622e-18
C98  cont0  aux2   4.116622e-18
C99  cont0  aux3   7.3832254e-18
C100 cont0  aux4   4.1543726e-18
C101 cont0  aux5   4.1543726e-18
C102 cont0  aux6   9.5746744e-18
C103 cont0  aux7   9.5746744e-18
C104 gnd    cont4  1.3847909e-18
C105 gnd    gate1  1.3722073e-18
C106 gnd    cont5  1.9519676e-17
C107 gnd    gate2  2.4610751e-18
C108 gnd    bit    1.9519676e-17
C109 gnd    wlm    2.4610751e-18
C110 gnd    cont6  1.9094507e-17
C111 gnd    gate3  2.4610751e-18
C112 gnd    bitbar 1.9094507e-17
C113 gnd    cont8  1.3722073e-18
C114 gnd    cont9  3.1915581e-18
C115 gnd    gate4  1.3847909e-18
C116 gnd    cont7  3.1915581e-18
C117 gnd    vdd    3.1915581e-18
C118 gnd    cont10 3.1915581e-18
C119 gnd    cont11 1.3847909e-18
C120 gnd    gate5  1.3722073e-18
C121 gnd    substrate 6.1995534e-17
C122 gnd    aux1   4.116622e-18
C123 gnd    aux2   4.116622e-18
C124 gnd    aux3   7.3832254e-18
C125 gnd    aux4   4.1543726e-18
C126 gnd    aux5   4.1543726e-18
C127 gnd    aux6   9.5746744e-18
C128 gnd    aux7   9.5746744e-18
C129 cont3  cont4  1.3847909e-18
C130 cont3  gate1  1.3722073e-18
C131 cont3  cont5  1.9519676e-17
C132 cont3  gate2  2.4610751e-18
C133 cont3  bit    1.9519676e-17
C134 cont3  wlm    2.4610751e-18
C135 cont3  cont6  1.9094507e-17
C136 cont3  gate3  2.4610751e-18
C137 cont3  bitbar 1.9094507e-17
C138 cont3  cont8  1.3722073e-18
C139 cont3  cont9  3.1915581e-18
C140 cont3  gate4  1.3847909e-18
C141 cont3  cont7  3.1915581e-18
C142 cont3  vdd    3.1915581e-18
C143 cont3  cont10 3.1915581e-18
C144 cont3  cont11 1.3847909e-18
C145 cont3  gate5  1.3722073e-18
C146 cont3  substrate 6.1995534e-17
C147 cont3  aux1   4.116622e-18
C148 cont3  aux2   4.116622e-18
C149 cont3  aux3   7.3832254e-18
C150 cont3  aux4   4.1543726e-18
C151 cont3  aux5   4.1543726e-18
C152 cont3  aux6   9.5746744e-18
C153 cont3  aux7   9.5746744e-18
C154 gate1  cont4  4.7975111e-18
C155 cont4  cont5  1.4425605e-18
C156 cont4  gate2  8.9967143e-19
C157 cont4  bit    1.4425605e-18
C158 cont4  wlm    8.9967143e-19
C159 cont4  cont6  4.4950388e-18
C160 cont4  gate3  8.9967143e-19
C161 cont4  bitbar 4.4950388e-18
C162 cont8  cont4  4.7975111e-18
C163 cont4  cont9  1.0490203e-18
C164 cont4  cont7  1.0490203e-18
C165 cont4  vdd    1.0490203e-18
C166 cont4  cont10 1.0490203e-18
C167 gate5  cont4  4.7975111e-18
C168 cont4  substrate 8.4531935e-17
C169 aux1   cont4  1.4392533e-17
C170 aux2   cont4  1.4392533e-17
C171 cont4  aux3   2.6990143e-18
C172 cont4  aux6   3.147061e-18
C173 cont4  aux7   3.147061e-18
C174 aux8   cont4  4.1543726e-18
C175 aux9   cont4  4.1543726e-18
C176 gate1  cont5  5.8032019e-18
C177 gate1  gate2  8.943729e-19
C178 gate1  bit    5.8032019e-18
C179 gate1  wlm    8.943729e-19
C180 gate1  cont6  2.7488313e-18
C181 gate1  gate3  8.943729e-19
C182 gate1  bitbar 2.7488313e-18
C183 gate1  cont9  1.7964086e-18
C184 gate1  gate4  4.7975111e-18
C185 gate1  cont7  1.7964086e-18
C186 gate1  vdd    1.7964086e-18
C187 gate1  cont10 1.7964086e-18
C188 gate1  cont11 4.7975111e-18
C189 gate1  substrate 9.2067218e-17
C190 gate1  aux3   2.6831187e-18
C191 gate1  aux4   1.4392533e-17
C192 gate1  aux5   1.4392533e-17
C193 gate1  aux6   5.3892258e-18
C194 gate1  aux7   5.3892258e-18
C195 aux8   gate1  4.116622e-18
C196 aux9   gate1  4.116622e-18
C197 cont5  gate2  1.5155683e-17
C198 cont5  wlm    1.5155683e-17
C199 cont5  cont6  8.8162617e-17
C200 cont5  gate3  1.5155683e-17
C201 cont5  bitbar 8.8162617e-17
C202 cont8  cont5  5.8032019e-18
C203 cont5  cont9  1.9250016e-17
C204 gate4  cont5  1.4425605e-18
C205 cont5  cont7  1.9250016e-17
C206 cont5  vdd    1.9250016e-17
C207 cont5  cont10 1.9250016e-17
C208 cont11 cont5  1.4425605e-18
C209 gate5  cont5  5.8032019e-18
C210 cont5  substrate 8.1075034e-17
C211 aux1   cont5  1.7409606e-17
C212 aux2   cont5  1.7409606e-17
C213 cont5  aux3   4.546705e-17
C214 aux4   cont5  4.3276815e-18
C215 aux5   cont5  4.3276815e-18
C216 cont5  aux6   5.7750048e-17
C217 cont5  aux7   5.7750048e-17
C218 aux8   cont5  5.8559028e-17
C219 aux9   cont5  5.8559028e-17
C220 bit    gate2  1.5155683e-17
C221 gate2  cont6  1.5366672e-17
C222 gate2  bitbar 1.5366672e-17
C223 cont8  gate2  8.943729e-19
C224 gate4  gate2  8.9967143e-19
C225 cont11 gate2  8.9967143e-19
C226 gate5  gate2  8.943729e-19
C227 gate2  substrate 9.0007178e-17
C228 aux1   gate2  2.6831187e-18
C229 aux2   gate2  2.6831187e-18
C230 aux4   gate2  2.6990143e-18
C231 aux5   gate2  2.6990143e-18
C232 aux8   gate2  7.3832254e-18
C233 aux9   gate2  7.3832254e-18
C234 bit    wlm    1.5155683e-17
C235 bit    cont6  8.8162617e-17
C236 bit    gate3  1.5155683e-17
C237 bit    bitbar 8.8162617e-17
C238 cont8  bit    5.8032019e-18
C239 bit    cont9  1.9250016e-17
C240 gate4  bit    1.4425605e-18
C241 bit    cont7  1.9250016e-17
C242 bit    vdd    1.9250016e-17
C243 bit    cont10 1.9250016e-17
C244 cont11 bit    1.4425605e-18
C245 gate5  bit    5.8032019e-18
C246 bit    substrate 8.1075034e-17
C247 aux1   bit    1.7409606e-17
C248 aux2   bit    1.7409606e-17
C249 bit    aux3   4.546705e-17
C250 aux4   bit    4.3276815e-18
C251 aux5   bit    4.3276815e-18
C252 bit    aux6   5.7750048e-17
C253 bit    aux7   5.7750048e-17
C254 aux8   bit    5.8559028e-17
C255 aux9   bit    5.8559028e-17
C256 wlm    cont6  1.5366672e-17
C257 wlm    bitbar 1.5366672e-17
C258 cont8  wlm    8.943729e-19
C259 gate4  wlm    8.9967143e-19
C260 cont11 wlm    8.9967143e-19
C261 gate5  wlm    8.943729e-19
C262 wlm    substrate 9.0007178e-17
C263 aux1   wlm    2.6831187e-18
C264 aux2   wlm    2.6831187e-18
C265 aux4   wlm    2.6990143e-18
C266 aux5   wlm    2.6990143e-18
C267 aux8   wlm    7.3832254e-18
C268 aux9   wlm    7.3832254e-18
C269 gate3  cont6  1.5366672e-17
C270 cont8  cont6  2.7488313e-18
C271 cont6  cont9  1.5121017e-17
C272 gate4  cont6  4.4950388e-18
C273 cont6  cont7  1.5121017e-17
C274 cont6  vdd    1.5121017e-17
C275 cont6  cont10 1.5121017e-17
C276 cont11 cont6  4.4950388e-18
C277 gate5  cont6  2.7488313e-18
C278 cont6  substrate 8.3573678e-17
C279 aux1   cont6  8.246494e-18
C280 aux2   cont6  8.246494e-18
C281 aux3   cont6  4.6100016e-17
C282 aux4   cont6  1.3485117e-17
C283 aux5   cont6  1.3485117e-17
C284 cont6  aux6   4.5363051e-17
C285 cont6  aux7   4.5363051e-17
C286 aux8   cont6  5.728352e-17
C287 aux9   cont6  5.728352e-17
C288 gate3  bitbar 1.5366672e-17
C289 cont8  gate3  8.943729e-19
C290 gate4  gate3  8.9967143e-19
C291 cont11 gate3  8.9967143e-19
C292 gate5  gate3  8.943729e-19
C293 gate3  substrate 9.0007178e-17
C294 aux1   gate3  2.6831187e-18
C295 aux2   gate3  2.6831187e-18
C296 aux4   gate3  2.6990143e-18
C297 aux5   gate3  2.6990143e-18
C298 aux8   gate3  7.3832254e-18
C299 aux9   gate3  7.3832254e-18
C300 cont8  bitbar 2.7488313e-18
C301 bitbar cont9  1.5121017e-17
C302 gate4  bitbar 4.4950388e-18
C303 bitbar cont7  1.5121017e-17
C304 bitbar vdd    1.5121017e-17
C305 bitbar cont10 1.5121017e-17
C306 cont11 bitbar 4.4950388e-18
C307 gate5  bitbar 2.7488313e-18
C308 bitbar substrate 8.3573678e-17
C309 aux1   bitbar 8.246494e-18
C310 aux2   bitbar 8.246494e-18
C311 aux3   bitbar 4.6100016e-17
C312 aux4   bitbar 1.3485117e-17
C313 aux5   bitbar 1.3485117e-17
C314 bitbar aux6   4.5363051e-17
C315 bitbar aux7   4.5363051e-17
C316 aux8   bitbar 5.728352e-17
C317 aux9   bitbar 5.728352e-17
C318 cont8  cont9  1.7964086e-18
C319 cont8  gate4  4.7975111e-18
C320 cont8  cont7  1.7964086e-18
C321 cont8  vdd    1.7964086e-18
C322 cont8  cont10 1.7964086e-18
C323 cont8  cont11 4.7975111e-18
C324 cont8  substrate 9.2067218e-17
C325 cont8  aux3   2.6831187e-18
C326 cont8  aux4   1.4392533e-17
C327 cont8  aux5   1.4392533e-17
C328 cont8  aux6   5.3892258e-18
C329 cont8  aux7   5.3892258e-18
C330 aux8   cont8  4.116622e-18
C331 aux9   cont8  4.116622e-18
C332 gate4  cont9  1.0490203e-18
C333 cont11 cont9  1.0490203e-18
C334 gate5  cont9  1.7964086e-18
C335 cont9  substrate 5.4173788e-17
C336 aux1   cont9  5.3892258e-18
C337 aux2   cont9  5.3892258e-18
C338 aux4   cont9  3.147061e-18
C339 aux5   cont9  3.147061e-18
C340 aux8   cont9  9.5746744e-18
C341 aux9   cont9  9.5746744e-18
C342 gate4  cont7  1.0490203e-18
C343 gate4  vdd    1.0490203e-18
C344 gate4  cont10 1.0490203e-18
C345 gate5  gate4  4.7975111e-18
C346 gate4  substrate 8.4531935e-17
C347 aux1   gate4  1.4392533e-17
C348 aux2   gate4  1.4392533e-17
C349 gate4  aux3   2.6990143e-18
C350 gate4  aux6   3.147061e-18
C351 gate4  aux7   3.147061e-18
C352 aux8   gate4  4.1543726e-18
C353 aux9   gate4  4.1543726e-18
C354 cont11 cont7  1.0490203e-18
C355 gate5  cont7  1.7964086e-18
C356 cont7  substrate 5.4173788e-17
C357 aux1   cont7  5.3892258e-18
C358 aux2   cont7  5.3892258e-18
C359 aux4   cont7  3.147061e-18
C360 aux5   cont7  3.147061e-18
C361 aux8   cont7  9.5746744e-18
C362 aux9   cont7  9.5746744e-18
C363 cont11 vdd    1.0490203e-18
C364 gate5  vdd    1.7964086e-18
C365 vdd    substrate 5.4173788e-17
C366 aux1   vdd    5.3892258e-18
C367 aux2   vdd    5.3892258e-18
C368 aux4   vdd    3.147061e-18
C369 aux5   vdd    3.147061e-18
C370 aux8   vdd    9.5746744e-18
C371 aux9   vdd    9.5746744e-18
C372 cont11 cont10 1.0490203e-18
C373 gate5  cont10 1.7964086e-18
C374 cont10 substrate 5.4173788e-17
C375 aux1   cont10 5.3892258e-18
C376 aux2   cont10 5.3892258e-18
C377 aux4   cont10 3.147061e-18
C378 aux5   cont10 3.147061e-18
C379 aux8   cont10 9.5746744e-18
C380 aux9   cont10 9.5746744e-18
C381 gate5  cont11 4.7975111e-18
C382 cont11 substrate 8.4531935e-17
C383 aux1   cont11 1.4392533e-17
C384 aux2   cont11 1.4392533e-17
C385 cont11 aux3   2.6990143e-18
C386 cont11 aux6   3.147061e-18
C387 cont11 aux7   3.147061e-18
C388 aux8   cont11 4.1543726e-18
C389 aux9   cont11 4.1543726e-18
C390 gate5  substrate 9.2067218e-17
C391 gate5  aux3   2.6831187e-18
C392 gate5  aux4   1.4392533e-17
C393 gate5  aux5   1.4392533e-17
C394 gate5  aux6   5.3892258e-18
C395 gate5  aux7   5.3892258e-18
C396 aux8   gate5  4.116622e-18
C397 aux9   gate5  4.116622e-18
C398 aux1   substrate 2.7620165e-16
C399 aux2   substrate 2.7620165e-16
C400 aux3   substrate 2.7002153e-16
C401 aux4   substrate 2.535958e-16
C402 aux5   substrate 2.535958e-16
C403 aux6   substrate 1.6252136e-16
C404 aux7   substrate 1.6252136e-16
C405 aux8   substrate 1.859866e-16
C406 aux9   substrate 1.859866e-16
C407 aux1   aux3   8.0493561e-18
C408 aux1   aux4   4.31776e-17
C409 aux1   aux5   4.31776e-17
C410 aux1   aux6   1.6167678e-17
C411 aux1   aux7   1.6167678e-17
C412 aux8   aux1   1.2349866e-17
C413 aux9   aux1   1.2349866e-17
C414 aux2   aux3   8.0493561e-18
C415 aux2   aux4   4.31776e-17
C416 aux2   aux5   4.31776e-17
C417 aux2   aux6   1.6167678e-17
C418 aux2   aux7   1.6167678e-17
C419 aux8   aux2   1.2349866e-17
C420 aux9   aux2   1.2349866e-17
C421 aux4   aux3   8.0970429e-18
C422 aux5   aux3   8.0970429e-18
C423 aux8   aux3   2.2149676e-17
C424 aux9   aux3   2.2149676e-17
C425 aux4   aux6   9.4411829e-18
C426 aux4   aux7   9.4411829e-18
C427 aux8   aux4   1.2463118e-17
C428 aux9   aux4   1.2463118e-17
C429 aux5   aux6   9.4411829e-18
C430 aux5   aux7   9.4411829e-18
C431 aux8   aux5   1.2463118e-17
C432 aux9   aux5   1.2463118e-17
C433 aux8   aux6   2.8724023e-17
C434 aux9   aux6   2.8724023e-17
C435 aux8   aux7   2.8724023e-17
C436 aux9   aux7   2.8724023e-17
